US04293561
A solution of 1.36 g of 2-chloroethyl-2-naphthyl ketone, 6.05 g ethylene glycol and a crystal of p-toluenesulfonic acid monohydrate in 50 ml of toluene is heated for 8 hours under reflux through a Dean-Stark trap. After cooling, the mixture is neutralized by pouring into excess aqueous potassium carbonate, extracted with 200 ml ether and the organic phase washed, dried (MgSO4), and evaporated to yield 2-(2-naphthyl)-2-(2-chloroethyl)-1,3-dioxolane. Without further purification the crude ketal (1.36 g.) is heated with 1.77 g of imidazole in 2 ml of acetonitrile at 85° overnight. The resulting mixture is evaporated to dryness, treated with water and the product extracted with ether. The extracts are washed well with water, dried (MgSO4), evaporated and the residue chromatographed on silica gel eluting with 5% methanol/dichloromethane to give 0.78 g of 1-[3,3-ethylenedioxy-3-(2-naphthyl)-n-propyl]imidazole.

reactant | 2-chloroethyl-2-naphthyl ketone | 1.36 g | ClCCC(=O)C1=CC2=CC=CC=C2C=C1 | C13H11ClO
reactant | ethylene glycol | 6.05 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-naphthyl)-2-(2-chloroethyl)-1,3-dioxolane | C1=C(C=CC2=CC=CC=C12)C1(OCCO1)CCCl | C15H15ClO2
